US06677368B2
To a solution of 4-(3-methoxy-phenyl)-1,3-dihydro-indol-2-one (72 mg, 0.25 mmol) and 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-diethylamino-ethyl)-amide (65.3 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. The reaction solution was evaporated, and purified on a silica gel column eluting with MeOH—CH2Cl2 5:95 to provide pure product 5-[4-(3-methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic acid (2-diethylamino-ethyl)-amide as a yellow solid (40 mg, 34%).

reactant | 4-(3-methoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 72 mg | COC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C15H13NO2
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-diethylamino-ethyl)-amide | 0.26 mmol, 65.3 mg | C(C)N(CCNC(=O)C=1NC(=C(C1)C)C=O)CC | C13H21N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-[4-(3-methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic acid (2-diethylamino-ethyl)-amide | 40 mg, 34% | C(C)N(CCNC(=O)C=1NC(=C(C1)C)C=C1C(NC2=CC=CC(=C12)C1=CC(=CC=C1)OC)=O)CC | C28H32N4O3
